US04055636
To a solution of 3.00 g of NG -nitro-N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester in 50 ml of ethanol and 0.5 ml of acetic acid was added 0.5 g of palladium-black and then the mixture was shaken in a hydrogen atmosphere for 100 hours at room temperature. At the end of this period, the ethanol solution was filtered to remove the catalyst and evaporated to give an oily product. Reprecipitation with ethanoldiethyl ether gave 2.53 g (91%) of N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester.

reactant | nitro-N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester | C(C)OC(CN(CCOC)C([C@@H](N(S(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)[N+](=O)[O-])CCCNC(N)=N)=O)=O | C25H36N6O10S
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-black | 0.5 g | [Pd] | Pd
product | N2 (6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester | 2.53 g, 91% | N#N.C(C)OC(CN(CCOC)C([C@@H](NS(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)CCCNC(N)=N)=O)=O | InChI=1S/C25H37N5O8S.N2/c1-5-38-23(31)16-30(11-12-35-2)24(32)20(7-6-10-28-25(26)27)29-39(33,34)19-9-8-17-14-21(36-3)22(37-4)15-18(17)13-19;1-2/h8-9,13-15,20,29H,5-7,10-12,16H2,1-4H3,(H4,26,27,28);/t20-;/m0./s1
